* NGSPICE file created from shiftre.ext - technology: sky130A

.subckt dflipflop VP D Q Dn Qn VN CLK
X0 a_n10_n30# CLK VN VN sky130_fd_pr__nfet_01v8 ad=0.467 pd=3 as=1.4 ps=9.3 w=4 l=0.15
X1 VP a_n10_900# a_n10_1490# VP sky130_fd_pr__pfet_01v8 ad=0.496 pd=3.13 as=0.275 ps=1.55 w=1 l=0.15
X2 Qn Q a_260_900# VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.396 ps=2.93 w=1 l=0.15
X3 VN Q Qn VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X4 a_260_900# CLK VP VP sky130_fd_pr__pfet_01v8 ad=0.396 pd=2.93 as=0.496 ps=3.13 w=3.95 l=0.15
X5 Qn CLK a_n10_900# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X6 VN Qn Q VN sky130_fd_pr__nfet_01v8 ad=0.5 pd=3 as=0.25 ps=1.5 w=1 l=0.15
X7 VP a_n10_1490# a_n10_900# VP sky130_fd_pr__pfet_01v8 ad=0.496 pd=3.13 as=0.275 ps=1.55 w=1 l=0.15
X8 a_n10_900# CLK Dn VP sky130_fd_pr__pfet_01v8 ad=0.275 pd=1.55 as=0.45 ps=2.9 w=1 l=0.15
X9 Q CLK a_n10_1490# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.25 ps=1.5 w=1 l=0.15
X10 Q Qn a_260_900# VP sky130_fd_pr__pfet_01v8 ad=0.5 pd=3 as=0.396 ps=2.93 w=1 l=0.15
X11 a_n10_900# a_n10_1490# a_n10_n30# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.467 ps=3 w=1 l=0.15
X12 a_n10_1490# a_n10_900# a_n10_n30# VN sky130_fd_pr__nfet_01v8 ad=0.25 pd=1.5 as=0.467 ps=3 w=1 l=0.15
X13 a_n10_1490# CLK D VP sky130_fd_pr__pfet_01v8 ad=0.275 pd=1.55 as=0.45 ps=2.9 w=1 l=0.15
.ends


* Top level circuit shiftre

Xdflipflop_0 VP D dflipflop_1/D Dn dflipflop_1/Dn VN CLK dflipflop
Xdflipflop_1 VP dflipflop_1/D dflipflop_2/D dflipflop_1/Dn dflipflop_2/Dn VN CLK dflipflop
Xdflipflop_2 VP dflipflop_2/D dflipflop_3/D dflipflop_2/Dn dflipflop_3/Dn VN CLK dflipflop
Xdflipflop_3 VP dflipflop_3/D Q dflipflop_3/Dn Qn VN CLK dflipflop
.end

